* D:\Universidad\ITBA 2022\2C 2022\Teoria de Circuitos\TP4\Cauer\LuyDami\Circuito.asc
XU1 N003 N001 V+ V- Vo TL082
RA1 N001 0 46250
V1 V+ 0 15
V2 0 V- 15
RB Vo N001 10000
RA2 N001 N002 191388
C22 N005 N002 4.641n
C3 N005 N003 5.623n
R1 Vo N005 1006
C21 N005 0 1n
V3 N004 0 AC 1.
R42 N003 N002 32601
R41 0 N003 4591
C1 N002 N004 1n
R2 0 N002 5883.41
.ac dec 100 10 100000
.lib TCLib/TL082.lib
.backanno
.end
